US09353107B2
Step-ii: tert-butyl 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylidene)piperidine-1-carboxylate
Using similar reaction conditions as described in step ii of intermediate-3, tert-butyl 4-(3-bromobenzylidene)piperidine-1-carboxylate (4.5 g, 12.7 mmol) was coupled with 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.87 g, 15.2 mmol) using potassium acetate (3.73 g, 38.1 mmol) and PdCl2(dppf) (460 mg, 0.63 mmol) in DME (100 mL) to give 6 g (crude) of the titled product after purification by chromatographic column (Silicagel-60/120) using 15% ethyl acetate as eluent. MS: m/z=344.1 (M-Boc+1).

reactant | tert-butyl 4-(3-bromobenzylidene)piperidine-1-carboxylate | 12.7 mmol, 4.5 g | BrC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C17H22BrNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 15.2 mmol, 3.87 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 38.1 mmol, 3.73 g | C(C)(=O)[O-].[K+]
solvent | DME | 100 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | 0.63 mmol, 460 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylidene)piperidine-1-carboxylate | CC1(OB(OC1(C)C)C=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)C | C23H34BNO4
